US05075324
0.3 ml of 5% NaHCO3 aqueous solution are added to a solution of the most polar diastereoisomer of 2-[3-formyloxy-3-phenyl-propyl]-3-carboethoxy-5-carbomethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine (2.5 g) in methanol (20 ml). The mixture is refluxed for 30 minutes, then it is cooled to 25° C. and evaporated to a small volume (2 ml) under reduced pressure. The sticky mass is diluted with ethyl ether (70 ml) and water (30 ml) and the phases are separed. The organic phase is washed with water (2×30 ml) and dried on sodium sulphate. The solvent is evaporated under reduced pressure, obtaining 2.3 g of the most polar diastereoisomer of 2-(3-phenyl-3-hydroxy-propyl)-3-carbomethoxy-5-carboethoxy-6-methyl-4-(m-nitrophenyl)-1,4-dihydropyridine as yellow foam.

reactant | NaHCO3 | 0.3 ml | C(=O)(O)[O-].[Na+]
reactant | 2-[3-formyloxy-3-phenyl-propyl]-3-carboethoxy-5-carbomethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine | 2.5 g | C(=O)OC(CCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C)C1=CC=CC=C1 | C27H28N2O8
solvent | methanol | 20 ml | CO | CH4O
product | 2-(3-phenyl-3-hydroxy-propyl)-3-carbomethoxy-5-carboethoxy-6-methyl-4-(m-nitrophenyl)-1,4-dihydropyridine | C1(=CC=CC=C1)C(CCC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)O | C26H28N2O7
